US04282245
A mixture of 130 mg of 2-(10,11-dihydro-8-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide, 20 ml of hydrobromic acid and 8 ml of acetic acid was refluxed with stirring for 3 hours. The solvent was distilled off to obtain a residue, which was extracted with chloroform. The extract was washed with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain crude crystals, which were recrystallized from ethyl acetate--n-hexane to obtain 102 mg (yield: 82%) of 2-(10,11-dihydro-8-hydroxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid as a light yellow powder having a melting point of 216°-217° C.

reactant | 2-(10,11-dihydro-8-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide | 130 mg | COC=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)N)C)=O)C1 | C18H17NO3S
reactant | hydrobromic acid | 20 ml | Br | BrH
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | n-hexane | CCCCCC | C6H14
product | 2-(10,11-dihydro-8-hydroxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid | 102 mg, yield: 82% | OC=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)O)C)=O)C1 | C17H14O4S
